** sch_path: /work/designs/g1-guardian/blocks/g1_sense/schematic/g1_sense.sch
.subckt g1_sense sense_p sense_n vref iptat isense vped vref_buf vdd vss
*.ipin sense_p
*.ipin sense_n
*.ipin vref
*.ipin iptat
*.opin isense
*.opin vped
*.opin vref_buf
*.iopin vdd
*.iopin vss
XR1N0 sense_n vn vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2N0 vn R2N_0 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2N1 R2N_0 R2N_1 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2N2 R2N_1 R2N_2 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2N3 R2N_2 R2N_3 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2N4 R2N_3 R2N_4 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2N5 R2N_4 R2N_5 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2N6 R2N_5 R2N_6 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2N7 R2N_6 R2N_7 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2N8 R2N_7 R2N_8 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2N9 R2N_8 R2N_9 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2N10 R2N_9 R2N_10 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2N11 R2N_10 R2N_11 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2N12 R2N_11 R2N_12 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2N13 R2N_12 R2N_13 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2N14 R2N_13 R2N_14 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2N15 R2N_14 R2N_15 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2N16 R2N_15 R2N_16 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2N17 R2N_16 R2N_17 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2N18 R2N_17 R2N_18 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2N19 R2N_18 isense vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR1P0 sense_p vp vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2P0 vp R2P_0 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2P1 R2P_0 R2P_1 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2P2 R2P_1 R2P_2 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2P3 R2P_2 R2P_3 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2P4 R2P_3 R2P_4 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2P5 R2P_4 R2P_5 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2P6 R2P_5 R2P_6 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2P7 R2P_6 R2P_7 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2P8 R2P_7 R2P_8 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2P9 R2P_8 R2P_9 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2P10 R2P_9 R2P_10 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2P11 R2P_10 R2P_11 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2P12 R2P_11 R2P_12 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2P13 R2P_12 R2P_13 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2P14 R2P_13 R2P_14 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2P15 R2P_14 R2P_15 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2P16 R2P_15 R2P_16 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2P17 R2P_16 R2P_17 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2P18 R2P_17 R2P_18 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XR2P19 R2P_18 vped vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD10 vref_buf RD1_0 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD11 RD1_0 vped_ref vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD20 vped_ref RD2_0 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD21 RD2_0 RD2_1 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD22 RD2_1 RD2_2 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD23 RD2_2 RD2_3 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD24 RD2_3 RD2_4 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD25 RD2_4 RD2_5 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD26 RD2_5 RD2_6 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD27 RD2_6 RD2_7 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD28 RD2_7 RD2_8 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD29 RD2_8 RD2_9 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD210 RD2_9 RD2_10 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD211 RD2_10 RD2_11 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD212 RD2_11 RD2_12 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD213 RD2_12 RD2_13 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD214 RD2_13 RD2_14 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD215 RD2_14 RD2_15 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD216 RD2_15 RD2_16 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD217 RD2_16 RD2_17 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD218 RD2_17 RD2_18 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD219 RD2_18 RD2_19 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD220 RD2_19 RD2_20 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD221 RD2_20 RD2_21 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD222 RD2_21 RD2_22 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD223 RD2_22 RD2_23 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD224 RD2_23 RD2_24 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD225 RD2_24 RD2_25 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD226 RD2_25 RD2_26 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD227 RD2_26 RD2_27 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD228 RD2_27 RD2_28 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD229 RD2_28 RD2_29 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD230 RD2_29 RD2_30 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD231 RD2_30 RD2_31 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD232 RD2_31 RD2_32 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD233 RD2_32 RD2_33 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD234 RD2_33 RD2_34 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD235 RD2_34 RD2_35 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD236 RD2_35 RD2_36 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD237 RD2_36 RD2_37 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD238 RD2_37 RD2_38 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD239 RD2_38 RD2_39 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD240 RD2_39 RD2_40 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD241 RD2_40 RD2_41 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD242 RD2_41 RD2_42 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD243 RD2_42 RD2_43 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD244 RD2_43 RD2_44 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD245 RD2_44 RD2_45 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD246 RD2_45 RD2_46 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD247 RD2_46 RD2_47 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD248 RD2_47 RD2_48 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD249 RD2_48 RD2_49 vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XRD250 RD2_49 vss vss rppd w=2u l=76.7u m=1 b=0 mm_ok=1
XMBI iptat iptat vss vss sg13_hv_nmos w=3.3u l=1u ng=1 m=1 mm_ok=1
XOTA vp vn iptat isense vdd vss g1_ota_main_candidate
XBUF vped_ref vped iptat vped vdd vss g1_ota
XREF vref vref_buf iptat vref_buf vdd vss g1_ota
.ends

* expanding   symbol:  g1_ota.sym # of pins=6
** sym_path: /work/designs/g1-guardian/blocks/g1_sense/schematic/g1_ota.sym
** sch_path: /work/designs/g1-guardian/blocks/g1_sense/schematic/g1_ota.sch
.subckt g1_ota inp inn vbn out vdd vss
*.ipin inp
*.ipin inn
*.ipin vbn
*.opin out
*.iopin vdd
*.iopin vss
XMB2 vbp vbn vss vss sg13_hv_nmos w=8u l=1u ng=2 m=1 mm_ok=1
XMB3 vbp vbp vdd vdd sg13_hv_pmos w=16u l=1u ng=4 m=1 mm_ok=1
XMB5 vbnc vbp vdd vdd sg13_hv_pmos w=16u l=1u ng=4 m=1 mm_ok=1
XMB4 vbnc vbnc vss vss sg13_hv_nmos w=1.6u l=1u ng=1 m=1 mm_ok=1
XMB6 vbpc vbn vss vss sg13_hv_nmos w=8u l=1u ng=2 m=1 mm_ok=1
XMB7 vbpc vbpc vdd vdd sg13_hv_pmos w=3.2u l=1u ng=1 m=1 mm_ok=1
XMT tail vbp vdd vdd sg13_hv_pmos w=128u l=1u ng=16 m=1 mm_ok=1
XM1 fn inn tail vdd sg13_hv_pmos w=96u l=2u ng=16 m=1 mm_ok=1
XM2 fp inp tail vdd sg13_hv_pmos w=96u l=2u ng=16 m=1 mm_ok=1
XM3 fn vbn vss vss sg13_hv_nmos w=80u l=1u ng=10 m=1 mm_ok=1
XM4 fp vbn vss vss sg13_hv_nmos w=80u l=1u ng=10 m=1 mm_ok=1
XM13 mir vbnc fn vss sg13_hv_nmos w=48u l=1u ng=6 m=1 mm_ok=1
XM16 out1 vbnc fp vss sg13_hv_nmos w=48u l=1u ng=6 m=1 mm_ok=1
XM14 pc1 mir vdd vdd sg13_hv_pmos w=96u l=1u ng=12 m=1 mm_ok=1
XM11 pc2 mir vdd vdd sg13_hv_pmos w=96u l=1u ng=12 m=1 mm_ok=1
XM15 mir vbpc pc1 vdd sg13_hv_pmos w=96u l=1u ng=12 m=1 mm_ok=1
XM12 out1 vbpc pc2 vdd sg13_hv_pmos w=96u l=1u ng=12 m=1 mm_ok=1
XM20 out out1 vdd vdd sg13_hv_pmos w=192u l=1u ng=24 m=1 mm_ok=1
XM21 out vbn vss vss sg13_hv_nmos w=96u l=1u ng=12 m=1 mm_ok=1
XRZ out1 cz vss rppd w=1u l=6.2u m=1 b=0 mm_ok=1
XCC cz out cap_cmim w=23u l=23u m=1 mm_ok=1
.ends


* Isolated main OTA geometry/compensation sensitivity; no layout adoption.
.subckt g1_ota_main_candidate inp inn vbn out vdd vss
*.ipin inp
*.ipin inn
*.ipin vbn
*.opin out
*.iopin vdd
*.iopin vss
XMB2 vbp vbn vss vss sg13_hv_nmos w=8u l=1u ng=2 m=1 mm_ok=1
XMB3 vbp vbp vdd vdd sg13_hv_pmos w=16u l=1u ng=4 m=1 mm_ok=1
XMB5 vbnc vbp vdd vdd sg13_hv_pmos w=16u l=1u ng=4 m=1 mm_ok=1
XMB4 vbnc vbnc vss vss sg13_hv_nmos w=1.6u l=1u ng=1 m=1 mm_ok=1
XMB6 vbpc vbn vss vss sg13_hv_nmos w=8u l=1u ng=2 m=1 mm_ok=1
XMB7 vbpc vbpc vdd vdd sg13_hv_pmos w=3.2u l=1u ng=1 m=1 mm_ok=1
XMT tail vbp vdd vdd sg13_hv_pmos w=128u l=1u ng=16 m=1 mm_ok=1
XM1 fn inn tail vdd sg13_hv_pmos w=288u l=2u ng=48 m=1 mm_ok=1
XM2 fp inp tail vdd sg13_hv_pmos w=288u l=2u ng=48 m=1 mm_ok=1
XM3 fn vbn vss vss sg13_hv_nmos w=320u l=4u ng=40 m=1 mm_ok=1
XM4 fp vbn vss vss sg13_hv_nmos w=320u l=4u ng=40 m=1 mm_ok=1
XM13 mir vbnc fn vss sg13_hv_nmos w=48u l=1u ng=6 m=1 mm_ok=1
XM16 out1 vbnc fp vss sg13_hv_nmos w=48u l=1u ng=6 m=1 mm_ok=1
XM14 pc1 mir vdd vdd sg13_hv_pmos w=384u l=4u ng=48 m=1 mm_ok=1
XM11 pc2 mir vdd vdd sg13_hv_pmos w=384u l=4u ng=48 m=1 mm_ok=1
XM15 mir vbpc pc1 vdd sg13_hv_pmos w=384u l=4u ng=48 m=1 mm_ok=1
XM12 out1 vbpc pc2 vdd sg13_hv_pmos w=384u l=4u ng=48 m=1 mm_ok=1
XM20 out out1 vdd vdd sg13_hv_pmos w=192u l=1u ng=24 m=1 mm_ok=1
XM21 out vbn vss vss sg13_hv_nmos w=96u l=1u ng=12 m=1 mm_ok=1
XRZ out1 cz vss rppd w=1u l=6.2u m=1 b=0 mm_ok=1
XCC cz out cap_cmim w=57.5u l=23u m=1 mm_ok=1
.ends

